US07776875B2
Preparation of Intermediate 5-chloro-2-(pyrimidin-2-yloxy)-benzaldehyde
5-Chloro-2-hydroxy-benzaldehyde (4 g, 25.6 mmol), 2-chloro-pyrimidine (5.4 g, 48 mmol), t-BuOK (3.5 g, 29 mmol) were mixed in DMF (20 mL). Then the mixture was heated for 2 hour at 120° C. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in ethyl acetate and washed with 1N NaOH. Then the organic layer was dried over anhydrous Na2SO4 and concentrated to give title compound as a white solid (Yield: 1.5 g, 25%).

reactant | 5-Chloro-2-hydroxy-benzaldehyde | 25.6 mmol, 4 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | 2-chloro-pyrimidine | 48 mmol, 5.4 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | t-BuOK | 29 mmol, 3.5 g | CC(C)(C)[O-].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-(pyrimidin-2-yloxy)-benzaldehyde | Yield: 1.5 g, 25% | ClC=1C=CC(=C(C=O)C1)OC1=NC=CC=N1 | C11H7ClN2O2
